US07645753B2
Cyclopropoxy-3-ethoxy-benzaldehyde
The title compound was prepared analogously to intermediate 2 (4-methoxy-3-propoxy-benzaldehyde) by reaction of 3-ethoxy-4-hydroxy-benzaldehyde with cyclopropyl bromide in DMF using K2CO3 as base. MS (ISP): 206.9 [M+H]+.

reactant | 3-ethoxy-4-hydroxy-benzaldehyde | C(C)OC=1C=C(C=O)C=CC1O | C9H10O3
reactant | cyclopropyl bromide | C1(CC1)Br | C3H5Br
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | Cyclopropoxy-3-ethoxy-benzaldehyde | C1(CC1)OC1=C(C=O)C=CC=C1OCC | C12H14O3
